US06392104B1
In an atmosphere of nitrogen, 10 mmole of 1,3,5-adamantanetriol obtained by the method of Example 32 and 36 mmole of triethylamine were dissolved in 10 mL of DMF. To the mixture, 33 mmole of acetyl chloride was added dropwise over 30 minutes at 40° C. The mixture was stirred for another 3 hours at 40° C. As a result, the conversion of 1,3,5-adamantanetriol was 99%, and 1,3,5-tris(acetyloxy)adamantane (yield 95%) was formed.

reactant | acetyl chloride | 33 mmole | C(C)(=O)Cl | C2H3ClO
reactant | 1,3,5-adamantanetriol | C12(CC3(CC(CC(C1)C3)(C2)O)O)O | C10H16O3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1,3,5-tris(acetyloxy)adamantane | yield 95% | C(C)(=O)OC12CC3(CC(CC(C1)C3)(C2)OC(C)=O)OC(C)=O | C16H22O6
